US07282588B2
Preparation of N-(4-{1-ethyl-4-[2-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]-1H-pyrazol-3-yl}phenyl)-N′-phenylurea
1,1-dimethylethyl 4-{4-[1-ethyl-3-(4-{[(phenylamino)carbonyl]amino}phenyl)-1H-pyrazol-4-yl]-1H-pyrrolo[2,3-b]pyridin-2-yl}-3,6-dihydro-1 (2H)-pyridinecarboxylate (0.362 mmol) was treated with 4N hydrogen chloride in 1,4-dioxane (2 mL). The suspension was stirred vigorously for 2 h, then concentrated under reduced pressure. Purification of the residue by reverse phase HPLC afforded the title compound as a yellow solid (42%). ESMS [M+H]+: 504.4

reactant | 1,1-dimethylethyl 4-{4-[1-ethyl-3-(4-{[(phenylamino)carbonyl]amino}phenyl)-1H-pyrazol-4-yl]-1H-pyrrolo[2,3-b]pyridin-2-yl}-3,6-dihydro-1 (2H)-pyridinecarboxylate | 0.362 mmol | C(C)N1N=C(C(=C1)C1=C2C(=NC=C1)NC(=C2)C=2CCN(CC2)C(=O)OC(C)(C)C)C2=CC=C(C=C2)NC(=O)NC2=CC=CC=C2 | C35H37N7O3
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | N-(4-{1-ethyl-4-[2-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]-1H-pyrazol-3-yl}phenyl)-N′-phenylurea | 42% | C(C)N1N=C(C(=C1)C1=C2C(=NC=C1)NC(=C2)C=2CCNCC2)C2=CC=C(C=C2)NC(=O)NC2=CC=CC=C2 | C30H29N7O
